US06953871B2
(2) Preparation of (Phenylethynyl)zinc Reagent
The flask was charged with 120 mg (1.1 mmol) of phenylacetylene and 4 mL of tetrahydrofuran, and the flask was cooled to −78° C. in a cooling bath with ethanol and dry ice. Thereafter, 0.65 mL (1.0 mmol) of a 1.56 mol/L hexane solution of n-butyllithium was slowly added over a period of 20 minutes. After stirring the mixture at −78° C. for 30 minutes, a suspension of 140 mg (1.0 mmol) of zinc chloride in 1 mL of tetrahydrofuran was added thereto. The mixture was stirred at −78° C. for additional 1 hour, thereafter the cooling bath was removed, and the mixture was allowed to stand upto room temperature. The resulting solution was used as (phenylethynyl)zinc reagent [(Ph—C≡C—ZnCl].

reactant | phenylacetylene | 1.1 mmol, 120 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | dry ice | C(=O)=O | CO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | zinc chloride | 1.0 mmol, 140 mg | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.56 mol/L | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
product | (Phenylethynyl)zinc | C1(=CC=CC=C1)C#C[Zn] | InChI=1S/C8H5.Zn/c1-2-8-6-4-3-5-7-8;/h3-7H;
